US04307233
bis-Dimethylamino-tert.-butoxymethane (10 g) is added, under a dry nitrogen atmosphere, to a solution of 2-benzhydryloxycarbonyl-7-benzoylamino-3-methyl-8-oxo-5-thia-1-aza-bicyclo[4.2.0]oct-2-ene (24 g) in anhydrous N,N-dimethylformamide (100 cc). The reaction mixture is stirred at 25° C. for 23 hours and is then poured into a mixture of ethyl acetate (300 cc) and an aqueous saturated sodium chloride solution (700 cc). The aqueous phase is decanted and extracted with ethyl acetate (250 cc). The organic phases are combined, washed with 1 N aqueous hydrochloric acid (250 cc), with distilled water (500 cc) and with a saturated aqueous sodium chloride solution (300 cc) and then dried over magnesium sulphate in the presence of decolorising charcoal, and filtered. The solvent is evaporated under reduced pressure (20 mm Hg) at 30° C. The residue is dissolved in methylene chloride (200 cc) and fixed to silica (50 g). The powder obtained is placed in a column (height 60 cm, diameter 5 cm) containing silica gel (415 g) in a 95:5 (by volume) mixture of cyclohexane and ethyl acetate. Elution is carried out with the following mixtures of cyclohexane and ethyl acetate: 95:5 (by volume) (5 liters), 90:10 (by volume) (5 liters), 80:20 (by volume) (5 liters), 70:30 (by volume) (7.5 liters) (so as to elute the impurities) and 60:40 (by volume) (8 liters) the latter being collected and concentrated to dryness. 2-Benzhydryloxycarbonyl-7-benzoylamino-3-(2-dimethylamino- vinyl)-8-oxo-5-thia-1-aza-bicyclo[4.2.0]oct-2-ene (E-form) (10 g) is obtained in the form of a yellow solid.

reactant | bis-Dimethylamino-tert.-butoxymethane | 10 g | CN(C)C(OC(C)(C)C)N(C)C | C9H22N2O
reactant | 2-benzhydryloxycarbonyl-7-benzoylamino-3-methyl-8-oxo-5-thia-1-aza-bicyclo[4.2.0]oct-2-ene | 24 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)OC(=O)C=1N2C(C(C2SCC1C)NC(C1=CC=CC=C1)=O)=O | C28H24N2O4S
reactant | sodium chloride | 700 cc | [Cl-].[Na+]
solvent | N,N-dimethylformamide | 100 cc | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | cyclohexane | C1CCCCC1 | C6H12
solvent | ethyl acetate | 300 cc | C(C)(=O)OCC | C4H8O2
product | 2-Benzhydryloxycarbonyl-7-benzoylamino-3-(2-dimethylamino- vinyl)-8-oxo-5-thia-1-aza-bicyclo[4.2.0]oct-2-ene | 10 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)OC(=O)C=1N2C(C(C2SCC1C=CN(C)C)NC(C1=CC=CC=C1)=O)=O | C31H29N3O4S
